US07166595B2
b) N-[1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-N-[4(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-oxo-butyl]-4-methyl-benzamide
To 2-{4-[1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propylamino]-3-oxo-butyl}-isoindole-1,3-dione (1.024 g, 2.046 mmol) in CH2Cl2 (14 mL) was added triethylamine (0.31 g, 3.069 mmol) and p-toluoyl chloride (0.474 g, 3.069 mmol). The reaction was stirred for 16 h at room temperature, washed with water, dried (Na2SO4), and evaporated to dryness. The residue was purified by flash chromatography on silica gel (1:1 hexanes:EtOAc) to give the title compound as a white foam (0.885 g, 70%). MS(ES+) m/e 619 [M+H]+.

reactant | 2-{4-[1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propylamino]-3-oxo-butyl}-isoindole-1,3-dione | 2.046 mmol, 1.024 g | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C)C)C(C(C)C)NCC(CCN1C(C2=CC=CC=C2C1=O)=O)=O | C29H32N4O4
reactant | triethylamine | 3.069 mmol, 0.31 g | C(C)N(CC)CC | C6H15N
reactant | p-toluoyl chloride | 3.069 mmol, 0.474 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
product | N-[1-(1-Benzyl-4,5-dimethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-N-[4(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-oxo-butyl]-4-methyl-benzamide | 0.885 g, 70% | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)C)C)C(C(C)C)N(C(C1=CC=C(C=C1)C)=O)CC(CCN1C(C2=CC=CC=C2C1=O)=O)=O | C37H38N4O5
